US08258130B2
A solution of 4-methyl-[2,2′]bipyrimidinyl-5-carboxylic acid (184 mg, 0.85 mmol) and 2-cyclopropyl-5-fluoro-indol-1-ylamine (135 mg, 0.71 mmol) in DMF (3 mL) is stirred at 40° C. for 1 h. The mixture is treated with DMTMM (235 mg, 0.71 mmol) and stirred at 40° C. for 1 h. The mixture is diluted with saturated aqueous Na2CO3 (5 mL) and stirred for 5 min. The precipitate is collected by filtration and dried in vacuo to afford 4-methyl-[2,2′]bipyrimidinyl-5-carboxylic acid (2-cyclopropyl-5-fluoro-indol-1-yl)-amide (35 mg, 13%). MS: 389 (M+H); 1H NMR (300 MHz, DMSO-d6): δ 11.93 (s, NH, 1H), 9.31 (s, 1H), 9.06 (d, 2H), 7.70 (m, 1H), 7.42 (m, 1H), 7.26 (m, 1H), 6.97 (m, 1H), 6.16 (s, 1H), 2.79 (s, 3H), 1.97 (m, 1H), 1.01 (m, 2H), 0.74 (m, 2H).

reactant | 4-methyl-[2,2′]bipyrimidinyl-5-carboxylic acid | 0.85 mmol, 184 mg | CC1=NC(=NC=C1C(=O)O)C1=NC=CC=N1 | C10H8N4O2
reactant | 2-cyclopropyl-5-fluoro-indol-1-ylamine | 0.71 mmol, 135 mg | C1(CC1)C=1N(C2=CC=C(C=C2C1)F)N | C11H11FN2
reactant | DMTMM | 0.71 mmol, 235 mg | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | Na2CO3 | 5 mL | C(=O)([O-])[O-].[Na+].[Na+]
product | 4-methyl-[2,2′]bipyrimidinyl-5-carboxylic acid (2-cyclopropyl-5-fluoro-indol-1-yl)-amide | 35 mg, 13% | C1(CC1)C=1N(C2=CC=C(C=C2C1)F)NC(=O)C=1C(=NC(=NC1)C1=NC=CC=N1)C | C21H17FN6O
